US07238808B2
3-(6-Amino-pyridin-3-ylethynyl)-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-8-carbonitrile
The title compound was prepared from 3-ethynyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-8-carbonitrile (example C.23) (150 mg, 0.5 mmol) and commercially available 2-amino-5-iodopyridine (106 mg, 0.5 mmol) according to general procedure II. Obtained as a light brown solid (15 mg, 7%). MS (ISP) 404.3 [(M+H)+].

reactant | 3-ethynyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-8-carbonitrile | 0.5 mmol, 150 mg | C(#C)C1=CN=C2N1C=C(C=C2C#N)C2=CC=C(C=C2)C(F)(F)F | C17H8F3N3
reactant | 2-amino-5-iodopyridine | 0.5 mmol, 106 mg | NC1=NC=C(C=C1)I | C5H5IN2
product | 3-(6-Amino-pyridin-3-ylethynyl)-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-8-carbonitrile | NC1=CC=C(C=N1)C#CC1=CN=C2N1C=C(C=C2C#N)C2=CC=C(C=C2)C(F)(F)F | C22H12F3N5
